US06906053B2
4-[(5-quinolinyloxy)methyl]benzoic acid
Methyl 4-(bromomethyl)benzoate was alkylated with commercially available 5-hydroxyquinoline using the analogous procedure as used for Example 202. MS found: (M+H)=280.

reactant | Methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | 5-hydroxyquinoline | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
product | 4-[(5-quinolinyloxy)methyl]benzoic acid | N1=CC=CC2=C(C=CC=C12)OCC1=CC=C(C(=O)O)C=C1 | C17H13NO3
